US07112594B2
5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 4 using 2-chloro-5-nitrobenzonitrile (10 g) and 4-morpholinopiperidine (27 g), the title compound (9.4 g) was obtained. melting point: 84-86° C.

reactant | 2-chloro-5-nitrobenzonitrile | 10 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-morpholinopiperidine | 27 g | O1CCN(CC1)C1CCNCC1 | C9H18N2O
product | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 9.4 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
